US05283335
Preparation of 6,7-Quinolinedicarboxylic anhydride
A mixture of dimethyl 6,7-quinolinedicarboxylate (3.00 g, 12.2 mmol), methanol and 10% aqueous sodium hydroxide (25 mL, 62.5 mmol) is stirred overnight at room temperature, cooled, acidified to pH 4-5 with concentrated sulfuric acid, diluted with acetone and filtered. The filtrate is concentrated in vacuo to give a tan solid, which is suspended in acetic anhydride (100 mL), stirred overnight at 56° C. and cooled. The solvent is removed in vacuo to afford the title product as a tan solid (1.20 g, 49.4%) identified by 1HNMR and IR spectral analyses.

reactant | dimethyl 6,7-quinolinedicarboxylate | 12.2 mmol, 3.00 g | N1=CC=CC2=CC(=C(C=C12)C(=O)OC)C(=O)OC | C13H11NO4
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 62.5 mmol, 25 mL | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6,7-Quinolinedicarboxylic anhydride | 1.20 g, 49.4% | N1=CC=CC2=CC3=C(C=C12)C(=O)OC3=O | C11H5NO3
